US07109354B2
b) 8-Methyl-6-nitro-1H-benzo[d][1,3]oxazine-2,4-dione
To a flask charged with 8-methyl-1H-benzo[d][1,3]oxazine-2,4-dione ((Example 295: step a) 9.27 g, 52.4 mmol) in an ice-water bath was added concentrated H2SO4 (90 mL) over 5 minutes period. After stirring for 10 minutes, fuming HNO3 (2.9 mL) was added over 15 minutes. The reaction mixture was stirred for further 30 minutes in the ice-water bath, 30 minutes at ambient temperature, then slowly poured into ice with stirring. The solid was collected, washed with H2O (3×50 mL), and dried in high vacuum to give the title compound (10.4 g, 89% yield) as a yellow solid. 1H NMR (DMSO) δ 11.65 (br s, 1H), 8.46–8.43 (m, 2H), 2.44 (s, 3H).

reactant | 8-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | CC1=CC=CC2=C1NC(OC2=O)=O | C9H7NO3
reactant | HNO3 | 2.9 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 90 mL | OS(=O)(=O)O | H2O4S
product | 8-Methyl-6-nitro-1H-benzo[d][1,3]oxazine-2,4-dione | 10.4 g, 89% yield | CC1=CC(=CC2=C1NC(OC2=O)=O)[N+](=O)[O-] | C9H6N2O5
